US05081237
To a solution of 3S,4R)-4-[(E)-4-{(2S)-1-allyloxycarbonylpyrrolidin-2-yl}-3-methyl-2-oxo-3-butenyl]-3[(1R)-1-t-butyldimethylsilyloxyethyl]-2-oxoazetidine (33.90 g) in acetonitrile (68 ml) was added boron trifluoride etherate (19.74 ml) at 5°-10° C. After stirring at 0° C. for 30 minutes, the reaction mixture was taken up into a mixture of ethyl acetate (170 ml), water (140 ml) and sodium bicarbonate (13.48 g). After stirring for 30 minutes, the organic layer was separated. The aqueous layer was extracted with ethyl acetate (70 ml). The combined organic portion was washed with brine (100 ml) and dried over magnesium sulfate. The solvent was removed in vacuo to give (3S,4R)-4-[(E)-4-{(2S)-1-allyloxycarbonylpyrrolidin-2-yl}-3-methyl-2-oxo-3-butenyl]3-[(1R)-1-hydroxyethyl]-2-oxoazetidine.

reactant | 4-[(E)-4-{(2S)-1-allyloxycarbonylpyrrolidin-2-yl}-3-methyl-2-oxo-3-butenyl]-3[(1R)-1-t-butyldimethylsilyloxyethyl]-2-oxoazetidine | 33.90 g | C(C=C)OC(=O)N1[C@@H](CCC1)/C=C(/C(CC1C(C(N1)=O)[C@@H](C)O[Si](C)(C)C(C)(C)C)=O)\C | C24H40N2O5Si
reactant | boron trifluoride etherate | 19.74 ml | B(F)(F)F.CCOCC
reactant | ethyl acetate | 170 ml | C(C)(=O)OCC | C4H8O2
reactant | sodium bicarbonate | 13.48 g | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 68 ml | C(C)#N | C2H3N
solvent | water | 140 ml | O | H2O
product | (3S,4R)-4-[(E)-4-{(2S)-1-allyloxycarbonylpyrrolidin-2-yl}-3-methyl-2-oxo-3-butenyl]3-[(1R)-1-hydroxyethyl]-2-oxoazetidine | C(C=C)OC(=O)N1[C@@H](CCC1)/C=C(/C(C[C@@H]1[C@H](C(N1)=O)[C@@H](C)O)=O)\C | C18H26N2O5
